US07829572B2
Preparation of 3-(1-(3,4-difluorophenyl)propan-2-yl)-2-(3-hydroxypyridin-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one
2-(3-(benzyloxy)pyridin-2-yl)-3-(1-(3,4-difluorophenyl)propan-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one (4.61 g, 8.31 mmol) was dissolved in absolute ethanol (150 mL). To this was added 10% palladium on carbon (0.50 g) and the mixture was hydrogenated on a Parr shaker at 45 PSI for 2.5 hours. The reaction was filtered through celite, and the filter cake washed with ethanol. The combined filtrates were concentrated in vacuo to an oil. This oil was purified by silica gel column chromatography using 20%-40% acetone/hexanes as eluant to yield the product diastereomers as a pale yellow foam (3.86 g, 77% yield).

reactant | 2-(3-(benzyloxy)pyridin-2-yl)-3-(1-(3,4-difluorophenyl)propan-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one | 8.31 mmol, 4.61 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)C(CC2=CC(=C(C=C2)F)F)C | C29H23F5N4O2
solvent | ethanol | 150 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
product | 3-(1-(3,4-difluorophenyl)propan-2-yl)-2-(3-hydroxypyridin-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one | 3.86 g, 77% yield | FC=1C=C(C=CC1F)CC(C)N1C(NC2=C(C1=O)C(=NC=C2)C(F)(F)F)C2=NC=CC=C2O | C22H17F5N4O2
